US07759362B2
Preparation of 5-Amino-1-cyclopropyl-8-difluoromethoxyl-7-(cis-2,8-diazabicyclo[4,3,0]nonane-8-yl)-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid
The preparation comprises neutralizing 5-amino-1-cyclopropyl-8-difluoromethoxyl-7-(cis-2,8-diazabicyclo[4,3,0]nonane-8-yl)-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid trifluoroacetate (target product of embodiment 19, 3.0 g) with ammonia water, refrigerating, filtering, and washing obtained solid with cold water to give monohydrate of the title compound. MS(m/z):453(M++1). Calculated results (measured values) of element analysis for the product: C 53.62(53.58), H 5.36(5.48), and N 11.91(11.87).

reactant | 5-amino-1-cyclopropyl-8-difluoromethoxyl-7-(cis-2,8-diazabicyclo[4,3,0]nonane-8-yl)-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid trifluoroacetate | 3.0 g | FC(C(=O)O)(F)F.NC1=C2C(C(=CN(C2=C(C(=C1F)N1C[C@@H]2CCCN[C@@H]2C1)OC(F)F)C1CC1)C(=O)O)=O
reactant | ammonia water | O.N
product | 5-Amino-1-cyclopropyl-8-difluoromethoxyl-7-(cis-2,8-diazabicyclo[4,3,0]nonane-8-yl)-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)N1C[C@@H]2CCCN[C@@H]2C1)OC(F)F)C1CC1)C(=O)O)=O | C21H23F3N4O4
